US04282246
5-Phenylthiofuran-3-carboxylate is combined with an equivalent of sodium ethoxide in ethyl acetate. Sodium 5-phenylthiofuran-3-carboxylate is isolated by concentration to dryness or by precipitation resulting from addition of a non-solvent (ether or hexane).

reactant | 5-Phenylthiofuran-3-carboxylate | C1(=CC=CC=C1)C1=CC(=CS1)C(=O)[O-]
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Sodium 5-phenylthiofuran-3-carboxylate | C1(=CC=CC=C1)C1=CC(=CS1)C(=O)[O-].[Na+] | InChI=1S/C11H8O2S.Na/c12-11(13)9-6-10(14-7-9)8-4-2-1-3-5-8;/h1-7H,(H,12,13);/q;+1/p-1
